US06960614B2
2-Boc-aminooxy-2-methyl-propionic acid ethyl ester (2.54 g, 10.27 mmol) was dissolved in freshly distilled THF (100 mL), cooled to 0° C. and charged with 2.0 M lithium borohydride solution (10.3 mL, 20.54 mmol) in THF. The ice bath was removed and reaction was heated to reflux. After 17 hours, the reaction was cooled to 0° C. and quenched with methanol and concentrated in vacuo. The afforded residue was partitioned between ethyl acetate and 1M sodium hydroxide solution. The organic layers were washed twice with 1M sodium hydroxide solution, twice with saturated sodium chloride solution, collected and dried over Na2SO4, filtered and concentrated in vacuo, affording 2-Boc-aminooxy-2-methyl-propan-1-ol (1.50 g, 71%) as a white solid: 1H NMR (400 MHz; CDCl3) δ 6.84 (bs, 1H), 3.37 (s, 2H), 1.45 (s, 9H), 1.18 (s, 6H); MS (APCI−)=204.0.

reactant | 2-Boc-aminooxy-2-methyl-propionic acid ethyl ester | 10.27 mmol, 2.54 g | C(C)OC(C(CON)(C)C(=O)OC(C)(C)C)=O | C11H21NO5
reactant | lithium borohydride | 20.54 mmol, 2.0 M, 10.3 mL | [BH4-].[Li+]
reactant | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-Boc-aminooxy-2-methyl-propan-1-ol | 1.50 g, 71% | C(=O)(OC(C)(C)C)C(C(O)ON)(C)C | C9H19NO4
